US06559145B2
Ethyl 6-Iodo-4-oxo-4H-1,2-benzoxazine-3-carboxylate [AT.3, Y=Iodo].
A solution of ethyl 3-(2-fluoro-5-iodophenyl)-2-(hydroxyimino)-3-oxopropanoate (Preparation 16, 1.3 g) in toluene (20 mL) is heated to reflux under nitrogen for 48 h. The reaction mixture is cooled to room temperature and concentrated in vacuo to give 1.33 g of a crude yellow solid which is recrystallized from ether to afford 0.65 g of the title compound as a yellow crystalline solid. Physical characteristics: mp 130-131: 1H NMR (300 MHz, CDCl3) δ 1.45, 4.51, 7.35, 8.09, 8.50; IR (drift) 2475, 2425, 2382, 2350, 2260, 1742, 1663, 1456, 1332, 1240, 1195, 1150, 1010, 987, 831 cm−1; HRMS (FAB) m/z 345.9581 (C11H8INO4+H). Anal. Found: C, 38.03; H, 2.52; N, 4.06.

reactant | ethyl 3-(2-fluoro-5-iodophenyl)-2-(hydroxyimino)-3-oxopropanoate | 1.3 g | FC1=C(C=C(C=C1)I)C(C(C(=O)OCC)=NO)=O | C11H9FINO4
solvent | toluene | 20 mL | C1(=CC=CC=C1)C | C7H8
product | Ethyl 6-Iodo-4-oxo-4H-1,2-benzoxazine-3-carboxylate | 0.65 g | IC=1C=CC2=C(C(C(=NO2)C(=O)OCC)=O)C1 | C11H8INO4
